US07608563B2
268 mg (2.20 mmol) of 2,6-dimethylphenol, 1,4-dioxane (3 mL) and dimethylsulfoxide (3 mL) were mixed, 270 mg (2.41 mmol) of potassium tert-butoxide was added to the mixture in an ice bath, and the resulting mixture was stirred for 10 minutes. To the mixture was added 370 mg (2.24 mmol) of 3,6-dichloropyridazine 1-oxide, and the resulting mixture was stirred at room temperature for 10 hours and allowed to stand for 2 days. The reaction mixture was poured into ice-cold water, and extracted with ethyl acetate. The organic layers were combined, washed successively with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography (hexane: ethyl acetate, gradient) to obtain 350 mg (1.39 mmol, Yield: 63.1%) of 6-chloro-3-(2,6-dimethylphenoxy)pyridazine 1-oxide.

reactant | 2,6-dimethylphenol | 2.20 mmol, 268 mg | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | potassium tert-butoxide | 2.41 mmol, 270 mg | CC(C)([O-])C.[K+]
reactant | 3,6-dichloropyridazine 1-oxide | 2.24 mmol, 370 mg | ClC=1N=[N+](C(=CC1)Cl)[O-] | C4H2Cl2N2O
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
product | 6-chloro-3-(2,6-dimethylphenoxy)pyridazine 1-oxide | 1.39 mmol, 350 mg, Yield: 63.1% | ClC1=CC=C(N=[N+]1[O-])OC1=C(C=CC=C1C)C | C12H11ClN2O2
